US07312330B2
D. 1-(6-(7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)-3,3-dimethylindolin-1-yl)ethanone
A mixture of 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (40 mg, 0.14 mmol), 1-(6-amino-3,3-dimethylindolin-1-yl)ethanone (60 mg, 0.29 mmol), and acetonitrile (3 mL) was heated in a sealed tube via microwave at 180° C. for 60 min. The mixture was treated with EtOAc (50 mL) and saturated aqueous sodium bicarbonate. The organic layer was separated and washed with brine, dried (Na2SO4), and evaporated. The residue was purified by flash chromatography over silica gel to give an off-white solid (50 mg).

reactant | 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.14 mmol, 40 mg | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2Cl | C12H10Cl2N4
reactant | 1-(6-amino-3,3-dimethylindolin-1-yl)ethanone | 0.29 mmol, 60 mg | NC1=CC=C2C(CN(C2=C1)C(C)=O)(C)C | C12H16N2O
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(6-(7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)-3,3-dimethylindolin-1-yl)ethanone | 50 mg | ClC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C2C(CN(C2=C1)C(C)=O)(C)C | C24H25ClN6O
